US07138432B1
To a solution of 91.3 g (0.441 mol) of [(4-methoxy-benzylidene)-amino]-acetic acid methyl ester in 500 ml of THF and 1000 ml of MeOH, 20 g (0.529 mol) of sodium borohydride is added portionwise at −10 to 0° C. The reaction mixture is stirred for 30 min. at −10 to 0° C. and quenched with sat. NH4Cl. After adding of ice-water, the mixture is concentrated to ¼ of whole volume and extracted with AcOEt. The combined extracts are washed with H2O and brine, dried over MgSO4 and concentrated under reduced pressure to give (4-methoxybenzylamino)-acetic acid methyl ester; NMR (CDCl3): 1.87 (br s, 1H), 3.41 (s, 2H), 3.73 (s, 3H), 3.74 (s, 2H), 3.8 (s, 3H), 6.86 (d, 2H, J=8.56 Hz), 7.24 (d, 2H, J=8.56 Hz).

reactant | [(4-methoxy-benzylidene)-amino]-acetic acid methyl ester | 0.441 mol, 91.3 g | COC(CN=CC1=CC=C(C=C1)OC)=O | C11H13NO3
reactant | sodium borohydride | 0.529 mol, 20 g | [BH4-].[Na+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1000 ml | CO | CH4O
product | (4-methoxybenzylamino)-acetic acid methyl ester | COC(CNCC1=CC=C(C=C1)OC)=O | C11H15NO3
